US08258306B2
To a solution of tert-butyl 4-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate (8.0 g, 29.4 mmol) in THF (25 mL) was added PhMgCl (8.0 g, 58.8 mmol) dropwise at 0° C. After stirring at rt for 2 h, the reaction was quenched with ammonium chloride solution and extracted with ethyl acetate, dried over anhydrous sodium sulfate and concentrated under vacuum to afford tert-butyl 4-benzoylpiperidine-1-carboxylate (5 g, 59% yield) as a pale yellow solid which was used directly in the next step.

reactant | tert-butyl 4-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate | 29.4 mmol, 8.0 g | CON(C(=O)C1CCN(CC1)C(=O)OC(C)(C)C)C | C13H24N2O4
reactant | PhMgCl | 58.8 mmol, 8.0 g | C1(=CC=CC=C1)[Mg]Cl
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-benzoylpiperidine-1-carboxylate | 5 g, 59% yield | C(C1=CC=CC=C1)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C17H23NO3
